US09353107B2
Step-iv: 5-bromo-6-cyclopropylpyridin-2-amine
A solution of 6-cyclopropylpyridin-2-amine (2 g, 14.93 mmol), methanol (25 mL) was added N-bromosuccinimide (2.64 g, 14.93 mmol) portionwise. After stirring at room temperature for 30 minutes, mixture was evaporated and the residue obtained was purified on column (SiO2) using 10% ethyl acetate in hexanes as eluent. This afforded 2.1 gm (68.5% yield) of title compound. 1H NMR (CDCl3, 300 MHz): δ 7.45-7.43 (d, 1H), 6.16-6.13 (d, 1H), 4.30-4.20 (bs, 2H), 2.40-2.30 (m, 1H), 1.00-0.90 (m, 2H), 0.85-0.80 (m, 2H). MS: m/z=215.0 (M+1).

reactant | 6-cyclopropylpyridin-2-amine | 14.93 mmol, 2 g | C1(CC1)C1=CC=CC(=N1)N | C8H10N2
reactant | N-bromosuccinimide | 14.93 mmol, 2.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 25 mL | CO | CH4O
product | 5-bromo-6-cyclopropylpyridin-2-amine | 2.1 gm, 68.5% yield | BrC=1C=CC(=NC1C1CC1)N | C8H9BrN2
